US07534791B2
Synthesis of (2-iodo-benzyl)-methyl-carbamic acid tert-butyl ester (Method 7.)
Lithium aluminum hydride (14.8 g, 390 mmol) is suspended in dry diethyl ether (250 mL) and cooled to 0° C. Aluminum chloride (16.0 g, 121 mmol) dissolved in dry diethyl ether (250 mL) is added dropwise at 0-5° C. The cooling bath is removed and the mixture is stirred at ambient temperature for 1 hour. The resulting aluminum hydride reagent solution is cooled to 0° C. followed by dropwise addition of 2-iodo-N-methyl-benzamide (50.8 g, 195 mmol) dissolved in dry THF (500 mL). After complete addition the solution is allowed to heat to ambient temperature and stirring is continued for 16 hours. The mixture is cooled to 10° C. followed by slow dropwise addition of water (30 mL) followed by 2M sodium hydroxide (30 mL) and water (150 mL). MgSO4 is added and the mixture is stirred for 10 minutes, filtered and concentrated in vacuo. The remanence is redissolved in ethyl acetate (500 mL), dried (MgSO4) and concentrated again to furnish 45.2 g (94%) of (2-iodo-benzyl)-methyl-amine as an oil. (2-Iodo-benzyl)-methyl-amine (20.0 g, 80.9 mmol) is dissolved in dry THF (300 mL) and di-tert-butyl dicarbonate (18.5 g, 85.0 mmol) is added. The mixture is stirred for 1 hour at ambient temperature. The volatiles are removed by means of evaporation and the crude mixture is purified by silica gel chromatography eluting with ethyl acetate-heptane (1:4) to furnish 28.5 g (quant.) of the title compound as an oil.

reactant | (2-Iodo-benzyl)-methyl-amine | 80.9 mmol, 20.0 g | IC1=C(CNC)C=CC=C1 | C8H10IN
reactant | di-tert-butyl dicarbonate | 85.0 mmol, 18.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | (2-iodo-benzyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CC1=C(C=CC=C1)I)=O | C13H18INO2
